US07612055B2
a) (2R,4S)-N-Butyl-4-((3S,6S,8R)-3,8-dimethyl-1,1,4-trioxo-1 lambda*6*-thia-5-aza-cyclohexadec-11-en-6-yl)-4-hydroxy-2-methyl-butyramide
A solution of 99 mg (0.21 mmol) (3S,6S,8R)-3,8-dimethyl-6-((2S,4R)-4-methyl-5-oxo-tetra-hydro-furan-2-yl)-1,1-dioxo-1lambda*6*-thia-5-aza-cyclohexadec-11-en-4-one in 1.5 ml butylamine is heated at 65° C. for two hours. The mixture is evaporated and the residue chromatographed on silica gel (EtOAc/hexane 1:1) to yield the title compound as a white solid.

reactant | (3S,6S,8R)-3,8-dimethyl-6-((2S,4R)-4-methyl-5-oxo-tetra-hydro-furan-2-yl)-1,1-dioxo-1lambda*6*-thia-5-aza-cyclohexadec-11-en-4-one | 0.21 mmol, 99 mg | C[C@@H]1CS(CCCCC=CCC[C@H](C[C@H](NC1=O)[C@H]1OC([C@@H](C1)C)=O)C)(=O)=O | C21H35NO5S
solvent | butylamine | 1.5 ml | C(CCC)N | C4H11N
product | (2R,4S)-N-Butyl-4-((3S,6S,8R)-3,8-dimethyl-1,1,4-trioxo-1 lambda*6*-thia-5-aza-cyclohexadec-11-en-6-yl)-4-hydroxy-2-methyl-butyramide | C(CCC)NC([C@@H](C[C@H](O)[C@H]1NC([C@@H](CS(CCCCC=CCC[C@H](C1)C)(=O)=O)C)=O)C)=O | C25H46N2O5S
